* C:\Users\dvorakj\Documents\GitHub\CEM3340-VCO-electrical\Draft1.asc
V1 15V 0 15
V2 12V 0 12
V3 5V 0 5
V4 -15V 0 -15
R4 SAW_out N001 10k
C1 SAW_out N001 10p
XU1 N002 N001 15V -15V SAW_out LT1013
V5 SAW_raw 0 PULSE(-5 5 1n 2.26m 1n 1n 2.26m)
R1 N002 SAW_raw 10k
R2 N002 5V 10k
* SAW
.tran 10m
.lib LTC.lib
.backanno
.end
